US05750050
Step 6.1 Preparation of Methyl 3-hydroxybenzoate.
3-hydroxybenzoic acid (30.0 g, 0.22 mol), methanol (101 ml) and concentrated sulphuric acid (2.7 ml) were added together and heated under reflux for 4 h. The reaction mixture was allowed to cool and the methanol was removed. The crude product was dried in vacuo and used without further purification.

reactant | 3-hydroxybenzoic acid | 0.22 mol, 30.0 g | OC=1C=C(C(=O)O)C=CC1 | C7H6O3
reactant | sulphuric acid | 2.7 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 101 ml | CO | CH4O
product | Methyl 3-hydroxybenzoate | OC=1C=C(C(=O)OC)C=CC1 | C8H8O3
